US05602250
b) 6,7-Dihydro-5H-imidazo[2,1-b][1,3]thiazine-2-carboxaldehyde-8,8-dioxide
Ethyl 6,7-dihydro-5H-imidazo[2,1-b][1,3 ]thiazine-2-carboxylate-8,8-dioxide (200 mg, 0.82 mmol) was dissolved in dry dichloromethane (minimum volume) under argon and cooled to -70° C. Diisobutylaluminium hydride (1.5M in toluene, 1 ml, 1.5 mmol) was added at <-70° C. and the mixture stirred at -70° C. until thin layer chromatography and infra-red spectroscopy showed little or no starting material remaining. Water (5 ml) was added carefully, cooling removed and the mixture stirred at ambient temperature for 1 h. Celite was added to the mixture and the resulting mixture filtered through a Celite pad. The Celite pad was washed with dichloromethane and water and the filtrate and washings combined and evaporated to dryness under reduced pressure. The residue was re-evaporated with ethanol (2×), triturated under diethyl ether and the product collected by filtration, washed with diethyl ether and dried in air (274 mg, 30%) (Found: M+ 200.0256. C7H8N2O3S requires M 200.0253); νmax (Nujol) 1678, 1316, 1161 and 1191 cm-1 ; δH [250 MHz; (CD3)2SO]2.50-2.57 (2H, m), 3.81-3.85 (2H, m), 4.31 (2H, t, J 6 Hz), 8.27 (1H, s), 9.80 (1H, s).

reactant | Ethyl 6,7-dihydro-5H-imidazo[2,1-b][1,3 ]thiazine-2-carboxylate-8,8-dioxide | 0.82 mmol, 200 mg | N=1C(=CN2C1S(CCC2)(=O)=O)C(=O)OCC | C9H12N2O4S
reactant | Diisobutylaluminium hydride | 1.5 mmol, 1.5M, 1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | 5 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,7-Dihydro-5H-imidazo[2,1-b][1,3]thiazine-2-carboxaldehyde-8,8-dioxide | N=1C(=CN2C1S(CCC2)(=O)=O)C=O | C7H8N2O3S
